US06403791B1
7-Bromo-4-methoxy-2-methylsulfanylbenzooxazole
N-Bromosuccinimide (2.4 g) was added to a solution of 4-methoxy-2-methylsulfanylbenzooxazole (2.63 g) in acetonitrile (80 ml) and the mixture stirred for 18 hours. It was then partitioned between dichloromethane (200 ml) and water (200 ml). The organics were washed with water (200 ml), dried over magnesium sulphate, filtered and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 10% ethyl acetate in heptane afforded the title compound as a white solid (1.25 g).

reactant | N-Bromosuccinimide | 2.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-methoxy-2-methylsulfanylbenzooxazole | 2.63 g | COC1=CC=CC2=C1N=C(O2)SC | C9H9NO2S
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 7-Bromo-4-methoxy-2-methylsulfanylbenzooxazole | 1.25 g | BrC1=CC=C(C=2N=C(OC21)SC)OC | C9H8BrNO2S
